US07399769B2
a) 3-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine-6-carboxylic acid
To a suspension of 3-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester ( 0.25 g, 0.75 mmol) in water (6 mL) and methanol (3 mL) was added lithium hydroxide monohydrate (0.21 g, 5 mmol) in one portion. The reaction mixture was stirred for 4.5 h at room temperature. After evaporation (removal of methanol), the remaining mixture was extracted with diethyl ether. Then the aqueous layer was acidified to pH˜5 with aqueous HCl (2N). The light yellow precipitate was collected by filtration and washed with water to afford the title compound (0.2 g, 83%) as light yellow solid. MS: m/e: 320.1 [M+H]+.

reactant | 3-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.75 mmol, 0.25 g | COC(=O)C=1C=CC=2N(C1)C(=NC2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
reactant | lithium hydroxide monohydrate | 5 mmol, 0.21 g | O.[OH-].[Li+]
solvent | water | 6 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 3-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine-6-carboxylic acid | 0.2 g, 83% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NC=C2N1C=C(C=C2)C(=O)O | C18H13N3O3
